US06492550B2
Tert-butyl 3-bromopropanoic Acid
3-Bromopropanoic acid (8.2 g, 53.6 mmol) and iso-butene (60 ml) were reacted by the same procedure as described in Example 1 for the preparation of tert-butyl 6-bromohexanoate and afforded the title material (4 g, 36%) as a colorless liquid.

reactant | 3-Bromopropanoic acid | 53.6 mmol, 8.2 g | BrCCC(=O)O | C3H5BrO2
reactant | tert-butyl 6-bromohexanoate | BrCCCCCC(=O)OC(C)(C)C | C10H19BrO2
solvent | iso-butene | 60 ml | C=C(C)C | C4H8
product | Tert-butyl 3-bromopropanoic Acid | 4 g, 36% | C(C)(C)(C)C(C(=O)O)CBr | C7H13BrO2
